US04127576
A solution of 14.1 g (0.1 moles) of tropane-3β-ol (pseudotropine) in 60 ml of absolute benzene is added dropwise to a stirred mixture of 31.3 g (0.2 moles) of phenyl chloroformate and 100 ml of absolute benzene. During addition the mixture is cooled with water. Thereafter the mixture is stirred for 6 hours. The separated crystalline substance is filtered off, washed with benzene and dried. 19.00 g (63.8%) of 3β-phenoxycarbonyloxy-tropane hydrochloride are obtained.

reactant | tropane-3β-ol | 0.1 moles, 14.1 g | [C@H]12C[C@H](C[C@H](CC1)N2C)O | C8H15NO
reactant | phenyl chloroformate | 0.2 moles, 31.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3β-phenoxycarbonyloxy-tropane hydrochloride | 19.00 g, 63.8% | Cl.O(C1=CC=CC=C1)C(=O)O[C@@H]1C[C@H]2CC[C@@H](C1)N2C | InChI=1S/C15H19NO3.ClH/c1-16-11-7-8-12(16)10-14(9-11)19-15(17)18-13-5-3-2-4-6-13;/h2-6,11-12,14H,7-10H2,1H3;1H/t11-,12+,14-;
